US04255581
Into a suitable flask, pivaloyloxymethyl 2-chloro-3-pyridinecarboxylate prepared according to Example 2, supra (21.7 g) and 3-chloro-2-methylaniline (28.4 g) are charged. To begin the reaction the mixture is heated to 140° C. During the reaction the temperature of the reaction mixture rises to 190° C. When reaction is completed, the temperature diminishes. The reaction mixture is then cooled to room temperature. Diluted hydrochloric acid is added to the cooled mixture and the precipitated compound ground into small particles and suspended in the reaction mixture. The solid is separated by filtration and the cake washed with water. Then the washed solid is dissolved in hot methanol and recrystallized by cooling the methanolic solution. The crystallized product is separated and dried under vacuum, at a temperature of 40° C. Pivaloyloxymethyl 2-(2'-methyl-3'-chloro-anilino)-3-pyridinecarboxylate (m.p. 90°-91° C.) is so obtained, with a yield of 22.5 g (77.6% of theory).

reactant | pivaloyloxymethyl 2-chloro-3-pyridinecarboxylate | ClC1=NC=CC=C1C(=O)OCOC(C(C)(C)C)=O | C12H14ClNO4
reactant | 3-chloro-2-methylaniline | 28.4 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | hydrochloric acid | Cl | ClH
product | Pivaloyloxymethyl 2-(2'-methyl-3'-chloro-anilino)-3-pyridinecarboxylate | CC1=C(NC2=NC=CC=C2C(=O)OCOC(C(C)(C)C)=O)C=CC=C1Cl | C19H21ClN2O4
